US07964724B2
4,5-bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(2-methoxy-1,1-dimethyl-ethyl)-phenyl]-4,5-dihydro-1H-imidazole (580 mg, 1.166 mmol) was reacted with phosgene (725 uL, 1.399 mmol, 20% solution in toluene) using the procedure as described in example 12 to give 4,5-bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(2-methoxy-1,1-dimethyl-ethyl)-phenyl]-4,5-dihydro-imidazole-1-carbonyl chloride (370 mg, 57% yield) as white solids.

reactant | 4,5-bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(2-methoxy-1,1-dimethyl-ethyl)-phenyl]-4,5-dihydro-1H-imidazole | 1.166 mmol, 580 mg | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)C(COC)(C)C)OCC | C28H30Cl2N2O2
reactant | phosgene | 1.399 mmol, 725 uL | C(=O)(Cl)Cl | CCl2O
product | 4,5-bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(2-methoxy-1,1-dimethyl-ethyl)-phenyl]-4,5-dihydro-imidazole-1-carbonyl chloride | 370 mg, 57% yield | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C(COC)(C)C)OCC | C29H29Cl3N2O3
